US09023847B2
120. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((R)-2-carbamoyl-1-phenyl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using (3R)-3-amino-3-phenylpropanamide instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 406 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.51 (1H, br. s.) 10.22 (1H, s) 8.65 (1H, d, J=8.44 Hz) 8.01 (1H, d, J=5.42 Hz) 7.80 (1H, d, J=5.47 Hz) 7.47 (1H, d, J=5.52 Hz) 7.33-7.39 (3H, m) 7.26-7.32 (4H, m) 7.17-7.23 (1H, m) 6.86 (1H, br. s.) 6.80 (1H, d, J=5.86 Hz) 6.40 (1H, d, J=3.56 Hz) 5.44 (1H, q, J=7.24 Hz) 2.66-2.75 (1H, m) 2.57-2.65 (1H, m)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | (3R)-3-amino-3-phenylpropanamide | N[C@H](CC(=O)N)C1=CC=CC=C1 | C9H12N2O
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((R)-2-carbamoyl-1-phenyl-ethyl)-amide | C(N)(=O)C[C@H](C1=CC=CC=C1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H19N5O2S
